US07371743B2
(b) methyl 4-(1,1-dioxo-[1,2]thiazepan-2-yl)-3-methyl-benzoate
Prepared analogously to Example 83b from methyl 4-(5-chloropentyl-sulphonyl-amino)-3-methyl-benzoate and potassium-tert.-butoxide in DMF.

reactant | methyl 4-(5-chloropentyl-sulphonyl-amino)-3-methyl-benzoate | ClCCCCCS(=O)(=O)NC1=C(C=C(C(=O)OC)C=C1)C | C14H20ClNO4S
reactant | potassium tert.-butoxide | [K].CC(C)([O-])C
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 4-(1,1-dioxo-[1,2]thiazepan-2-yl)-3-methyl-benzoate | O=S1(N(CCCCC1)C1=C(C=C(C(=O)OC)C=C1)C)=O | C14H19NO4S
